US08871946B2
The above reaction conditions are as follows: benzimidazole-4-carboxylic acid is reated with thionyl chloride at temperature of 0˜80° C. in a molar molecular ratio of thionyl chloride to benzimidazole-4-carboxylic acid is 1˜20 times, to produce benzimidazole-4-carbonyl chloride, and then benzimidazole-4-carbonyl chloride is reacted with an amine in an organic solvent at temperature of 0˜100° C. to produce benzimidazole-4-carboxamide derivatives. Wherein the organic solvent comprises dichloroethane, 1,1,2-trichloroethane, chloroform, tetrachloroethylene, benzene, toluene, xylene, chlorobenzene or dichlorobenzene, and so on.

reactant | benzimidazole-4-carboxylic acid | N1=CNC2=C1C=CC=C2C(=O)O | C8H6N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | benzimidazole-4-carbonyl chloride | N1=CNC2=C1C=CC=C2C(=O)Cl | C8H5ClN2O
